US06174884B1
tert-Butyl N′-(1-ethyl-heptylidene)-hydrazinecarboxylate
16.42 g (115 mmol) of 3-nonanone and 15.26 g (115.4 mmol) of tert-butyl carbazate are refluxed for 3 hours in 200 ml of cyclohexane. The solvent is removed in vacuo. This gives 30.54 g (product contains water) of a white solid, Rf=0.49 (cyclohexane/ethyl acetate=3:1).

reactant | 3-nonanone | 115 mmol, 16.42 g | CCC(CCCCCC)=O | C9H18O
reactant | tert-butyl carbazate | 115.4 mmol, 15.26 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | cyclohexane | 200 ml | C1CCCCC1 | C6H12
product | tert-Butyl N′-(1-ethyl-heptylidene)-hydrazinecarboxylate | C(C)C(CCCCCC)=NNC(=O)OC(C)(C)C | C14H28N2O2
